US06150373
270 mg (0.44 mmol) of 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one was treated with 3 ml of aniline and the mixture heated to 180° C. for 20 minutes and cooled. 20 ml of ethyl acetate and 20 ml of 2M aqueous hydrochloric acid were added. The organic phase was dried over magnesium sulfate, filtered and evaporated to afford 230 mg (83%) of 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a tan solid. [Mass spectrum (ESI)=632].

reactant | 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.44 mmol, 270 mg | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC(=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C28H20BrN5O5S
reactant | aniline | 3 ml | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 2M, 20 ml | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 230 mg, 83% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)C2=CC(=CC=C2)CN2C(C=1C(C2=O)=CC=CC1)=O | C33H23BrN6O3
